US06599902B2
Synthesis of 3-[1-[4-(2-{(S)-2-[(Cyclopropyl-methyl-amino)-methyl]-pyrrolidin-1-yl}-2-oxo-ethyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one
A mixture of {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid (104 mg, 0.2 mmol), cyclopropyl-methyl-(S)-1-pyrrolidin-2-ylmethyl-amine (53 mg, 0.34 mmol), HOBt (43 mg, 0.32 mmol), EDAC (65 mg, 0.34 mmol) and TEA (0.06 mL) in DMF (3 mL) was stirred at rt for 48 hours. The reaction was concentrated, diluted with sodium bicarbonate and extracted with DCM. The combined DCM was dried, concentrated and purified on a silica gel column to give 89 mg (68%) of the titled compound.

reactant | {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid | 0.2 mmol, 104 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CC(=O)O)C | C24H20Cl2N2O5S
reactant | cyclopropyl-methyl-(S)-1-pyrrolidin-2-ylmethyl-amine | 0.34 mmol, 53 mg | C1(CC1)N(C[C@H]1NCCC1)C | C9H18N2
reactant | HOBt | 0.32 mmol, 43 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 0.34 mmol, 65 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-[1-[4-(2-{(S)-2-[(Cyclopropyl-methyl-amino)-methyl]-pyrrolidin-1-yl}-2-oxo-ethyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | 89 mg, 68% | C1(CC1)N(C)C[C@H]1N(CCC1)C(CC=1C(=C(NC1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C)=O | C33H36Cl2N4O4S
